US07935674B2
A mixture of 4-chloro-5-fluoroindoline (584 mg) and D-glucose (1.04 g) in ethyl alcohol (20 ml)-H2O (3 ml) was refluxed for 1.5 days. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=100:0-85:15) to give 4-chloro-5-fluoro-1-(β-D-glucopyranosyl)indoline (1.07 g) as a colorless foam. APCI-Mass m/Z 334/336 (M+H). 1H-NMR (DMSO-d6) δ 3.02 (m, 3H), 3.20-3.45 (m, 4H), 3.57 (m, 2H), 3.71 (m, 1H), 4.35 (t, J=5.8 Hz, —H), 4.60 (d, J=8.3 Hz, 1H), 4.93 (d, J=5.1 Hz, 1H), 5.04 (d, J=4.0 Hz, 1H), 5.07 (d, J=4.3 Hz, 1H), 6.51 (dd, J=8.6, 3.6 Hz, 1H), 7.00 (t, J=9.1 Hz, 1H).

reactant | 4-chloro-5-fluoroindoline | 584 mg | ClC1=C2CCNC2=CC=C1F | C8H7ClFN
reactant | D-glucose | 1.04 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | H2O | 3 ml | O | H2O
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 4-chloro-5-fluoro-1-(β-D-glucopyranosyl)indoline | 1.07 g | ClC1=C2CCN(C2=CC=C1F)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C14H17ClFNO5
